US07456177B2
Preparation of Trifluoro-methanesulfonic acid 3-cyclopent-3-enylmethyl-pyridin-2-yl ester
3-Cyclopent-3-enylmethyl-1H-pyridin-2-one (1.9 g, 10.9 mmol) and 2,6-dimethylpyridine (2.21 mL, 19 mmol) were stirred in dichloromethane (50 mL) at 0° C. and treated with trifluoromethanesulfonic anhydride (2.38 mL, 14.1 mmol) dropwise over 1 min. The mixture was allowed to warm to room temperature and stirred for 1 h then poured into H2O (50 mL). The layers were separated and the aqueous layer was extracted with dichloromethane (3×30 mL). The combined organic layer was washed with H2O (2×50 mL), and a saturated aqueous NaHCO3 solution (50 mL), dried through a cotton plug and concentrated to provide an oil (3.1 g, 93%). (TLC 15% EtOAc/hexanes Rf 0.40); 1H NMR (400 MHz, CDCl3) δ 8.21 (d, J=4.7 Hz, 1H), 7.70 (d, J=7.5 Hz, 1H), 7.29 (m, 1H), 5.67 (s, 2H), 2.74 (d, J=7.5 Hz, 2H), 2.61 (m, 1H), 2.45 (m, 2H), 2.04 (dd, J=14.3, 5.0 Hz, 2H); 13C NMR (100 MHz, CDCl3) δ 155.1, 145.8, 141.4, 129.5, 128.0, 124.0, 38.5, 36.9, 35.5, CF3 carbon not observed; GCMS m/z 241 (M)+.

reactant | 3-Cyclopent-3-enylmethyl-1H-pyridin-2-one | 10.9 mmol, 1.9 g | C1(CC=CC1)CC=1C(NC=CC1)=O | C11H13NO
reactant | 2,6-dimethylpyridine | 19 mmol, 2.21 mL | CC1=NC(=CC=C1)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 14.1 mmol, 2.38 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | H2O | 50 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic acid 3-cyclopent-3-enylmethyl-pyridin-2-yl ester | 3.1 g, 93% | C1(CC=CC1)CC=1C(=NC=CC1)OS(=O)(=O)C(F)(F)F | C12H12F3NO3S
